datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cn1c[n:10]c2cccc(N)c21.Oc1cccc(C[NH2+:21][H:20])c1O>>Cn1c[n+:10]([H:20])c2cccc(N)c21.Oc1cccc(C[NH2:21])c1O 10=20;20,21=21",
"CN1c2ccccc2Nc2c1cccc2[O-:10].C[NH+](C)c1ccc2cc3ccc([N+:21](C)(C)[H:20])cc3[nH+]c2c1>>CN1c2ccccc2Nc2c1cccc2[O:10][H:20].C[NH+](C)c1ccc2cc3ccc([N:21](C)C)cc3[nH+]c2c1 10=20;20,21=21",
"COc1ccc([NH+:21](c2ccccc2)[H:20])cc1.Cc1n(C)c2c(O)ccc(O)c2[n:10]1>>COc1ccc([NH:21]c2ccccc2)cc1.Cc1n(C)c2c(O)ccc(O)c2[n+:10]1[H:20] 10=20;20,21=21",
"C(CSCCc1nnn[n:21]1[H:20])SCCc1nnn[n-]1.C[C@H](CCC[NH:10]Cc1ccccc1)[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C>>C(CSCCc1nnn[n-:21]1)SCCc1nnn[n-]1.C[C@H](CCC[NH+:10](Cc1ccccc1)[H:20])[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C 10=20;20,21=21",
"Cc1cccc[n:10]1.O=C(C(c1ccc(-c2ccccc2)cc1)C(O)C1CCCCC1)[O:21][H:20]>>Cc1cccc[n+:10]1[H:20].O=C(C(c1ccc(-c2ccccc2)cc1)C(O)C1CCCCC1)[O-:21] 10=20;20,21=21",
"CN(C)C(=S)OCC(=O)[O-:10].Clc1ccc2c(c1)nn[n:21]2[H:20]>>CN(C)C(=S)OCC(=O)[O:10][H:20].Clc1ccc2c(c1)nn[n-:21]2 10=20;20,21=21",
"COC(=O)c1ccc([O-:10])c([N+](=O)[O-])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COC(=O)c1ccc([O:10][H:20])c([N+](=O)[O-])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCCCCCCC[N:10](CC(C)O)CC(C)O.c1cnc2nc[n+:21]([H:20])cc2n1>>CCCCCCCCCC[N+:10](CC(C)O)(CC(C)O)[H:20].c1cnc2nc[n:21]cc2n1 10=20;20,21=21",
"[H][C:21](C(C)=O)(C(C)=O)[H:20].c1ccc2c(c1)CNCCC[NH:10]Cc1ccccc1OCCO2>>[H][C-:21](C(C)=O)C(C)=O.c1ccc2c(c1)CNCCC[NH+:10]([H:20])Cc1ccccc1OCCO2 10=20;20,21=21",
"CCCC[N:10](CCCC)CCCC.c1ccc2nc3cc([O:21][H:20])ccc3nc2c1>>CCCC[N+:10](CCCC)(CCCC)[H:20].c1ccc2nc3cc([O-:21])ccc3nc2c1 10=20;20,21=21",
"Cc1ccc([O:21][H:20])cc1Cc1cc([N+](=O)[O-])ccc1[O-].[O-]c1nc(C(F)(F)F)nc2c1[nH]c[n:10]2>>Cc1ccc([O-:21])cc1Cc1cc([N+](=O)[O-])ccc1[O-].[O-]c1nc(C(F)(F)F)nc2c1[nH]c[n+:10]2[H:20] 10=20;20,21=21",
"NC(=O)[N-:10]S(=O)(=O)c1ccc(N)cc1.ONc1ncnc2nc[n:21]([H:20])c12>>NC(=O)[N:10](S(=O)(=O)c1ccc(N)cc1)[H:20].ONc1ncnc2nc[n-:21]c12 10=20;20,21=21",
"C1C[NH+:21]([H:20])CS1.O=C([C@H]1C[C@@H]1c1ccc([N+](=O)[O-])cc1)[O-:10]>>C1C[NH:21]CS1.O=C([C@H]1C[C@@H]1c1ccc([N+](=O)[O-])cc1)[O:10][H:20] 10=20;20,21=21",
"C(COCCc1nnn[n:21]1[H:20])OCCc1nnn[n-]1.CCCCOc1ccc(OCCC[N:10]2CCOCC2)cc1>>C(COCCc1nnn[n-:21]1)OCCc1nnn[n-]1.CCCCOc1ccc(OCCC[N+:10]2([H:20])CCOCC2)cc1 10=20;20,21=21",
"Cc1ccc([NH2+:21][H:20])cc1.O=C1C=CC(Br)=CC=C1[O-:10]>>Cc1ccc([NH2:21])cc1.O=C1C=CC(Br)=CC=C1[O:10][H:20] 10=20;20,21=21",
"C[C@H]([C@H](O)c1ccccc1)[NH:10]C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C[C@H]([C@H](O)c1ccccc1)[NH+:10](C)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"COc1cc(/C=N/c2ncc3nc[nH]c3n2)ccc1[O:21][H:20].Cc1ccccc1C(c1ccccc1C)=[N:10]CCCC[NH+](C)C>>COc1cc(/C=N/c2ncc3nc[nH]c3n2)ccc1[O-:21].Cc1ccccc1C(c1ccccc1C)=[N+:10](CCCC[NH+](C)C)[H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].Oc1cccc(C[NH2:10])c1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.Oc1cccc(C[NH2+:10][H:20])c1 10=20;20,21=21",
"CCC1(C)OC(=O)[N:21]([H:20])C1=O.O=C([O-])[C@@H](O)[C@@H](C(=O)[O-])[NH2:10]>>CCC1(C)OC(=O)[N-:21]C1=O.O=C([O-])[C@@H](O)[C@@H](C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C=C(C)C(=O)OCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C[N+](C)(C)CCCC(=O)[O-:10].OC[C@@H]1O[C@H](n2cnc3c2ncn2cc[n+:21]([H:20])c32)[C@@H](O)[C@H]1O>>C[N+](C)(C)CCCC(=O)[O:10][H:20].OC[C@@H]1O[C@H](n2cnc3c2ncn2cc[n:21]c32)[C@@H](O)[C@H]1O 10=20;20,21=21",
"C(=N\[O-:10])\c1ccco1.O=C([O-])C(CO)NCc1ccccc1[O:21][H:20]>>C(=N\[O:10][H:20])\c1ccco1.O=C([O-])C(CO)NCc1ccccc1[O-:21] 10=20;20,21=21",
"CC1CC(/C=C2\CC(C)(C)CN2)=[N:10]C1(C)C.C[N+](C)(C)Cc1ccccc1[O:21][H:20]>>CC1CC(/C=C2\CC(C)(C)CN2)=[N+:10]([H:20])C1(C)C.C[N+](C)(C)Cc1ccccc1[O-:21] 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1nc2[nH]ncc2[n-:10]1.O=C([O-])c1c([O:21][H:20])ccc2ccccc12>>COc1cc(S(C)=O)ccc1-c1nc2[nH]ncc2[n:10]1[H:20].O=C([O-])c1c([O-:21])ccc2ccccc12 10=20;20,21=21",
"C/C(=N\[O-:10])C(=O)[O-].Cn1nc(/N=N/[O:21][H:20])nc1N>>C/C(=N\[O:10][H:20])C(=O)[O-].Cn1nc(/N=N/[O-:21])nc1N 10=20;20,21=21",
"CC(=O)[N:21](c1nnc(-c2ccccc2)s1)[H:20].COc1c(N)cccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:10]2Cc1ccccc1>>CC(=O)[N-:21]c1nnc(-c2ccccc2)s1.COc1c(N)cccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:10]2(Cc1ccccc1)[H:20] 10=20;20,21=21",
"C1CCC2C(C1)CCC[NH:10]2.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>C1CCC2C(C1)CCC[NH+:10]2[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"O=C(N/N=C/c1ccccc1[O-:10])c1ccncc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C(N/N=C/c1ccccc1[O:10][H:20])c1ccncc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(O)C(=O)[O:21][H:20].c1ccc(-c2cc[n:10][nH]2)[nH+]c1>>CC(O)C(=O)[O-:21].c1ccc(-c2cc[n+:10]([H:20])[nH]2)[nH+]c1 10=20;20,21=21",
